US07981900B2
5-[4-(Benzyloxy)-3-methoxyphenyl]-3-chloro-6-methyl-1,2,4-triazine
A degassed solution of 3,5-dichloro-6-methyl-1,2,4-triazine (151 mg, 0.9 mmol), 4-(benzyloxy)-3-methoxybenzene boronic acid (236 g, 0.9 mmol), tetralis(triphenylphosphine)palladium(0) (55 mg, 0.05 mmol) and tripotassium phosphate (249 mg, 1.2 mmol) in dimethoxyethane (5 mL) was heated at reflux for 24 h. Upon cooling to room temperature the solution was diluted with CHCl3 and filtered through Celite®. The filtrate was concentrated in vacuo and the product purified by column chromatography using ethyl acetate-hexane (25:75) as eluent to furnish (75 mg, 22%).

reactant | 3,5-dichloro-6-methyl-1,2,4-triazine | 0.9 mmol, 151 mg | ClC=1N=NC(=C(N1)Cl)C | C4H3Cl2N3
reactant | 4-(benzyloxy)-3-methoxybenzene boronic acid | 0.9 mmol, 236 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)OC | C14H15BO4
reactant | tripotassium phosphate | 1.2 mmol, 249 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-[4-(Benzyloxy)-3-methoxyphenyl]-3-chloro-6-methyl-1,2,4-triazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1N=C(N=NC1C)Cl)OC | C18H16ClN3O2
